Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Vertigo

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ yo F PMHx obesity, T2DM, and HTN who 
presents with acute onset vertigo.

Pt reports feeling otherwise well earlier in the day. She did 
not have any recent fevers, chills, URI symptoms, ear pain, neck 
pain, head injury or hearing loss. Around 20:20 on ___, she 
arrived home from church feeling like her typical self. All of a 
sudden, around 21:00, she felt a sensation of the room spinning 
clockwise and she became nauseous. The rooming spinning 
sensation was intermittent and not positional; it lasted from 
___ minutes. She then vomited twice. She was able to walk but 
she felt a sensation of falling to the R. She had to lean 
against a railing to walk downstairs and she felt unsteady on 
her feet. This had never happened before. She checked her BG 
which was 101. She then called her husband who brought her to 
the ED.

At the ED, a code stroke was called. She reported improving 
symptoms. She continued to have nausea and intermittent room 
spinning sensation (lasting ___ minutes). 

On neurologic review of systems, the patient denies headache, 
lightheadedness, or confusion. Denies difficulty with producing 
or comprehending speech. Denies loss of vision, blurred vision, 
diplopia, tinnitus, hearing difficulty, dysarthria, or 
dysphagia. Denies focal muscle weakness, numbness, parasthesia. 
Denies loss of sensation. Denies bowel or bladder incontinence 
or retention.

On general review of systems, the patient denies fevers, chest 
pain, palpitations, cough, nausea, vomiting, diarrhea, 
constipation, abdominal pain, dysuria or rash.

 
Past Medical History:
ASTHMA                                                          
CERVICAL CYST                                                    

CHRONIC URINARY TRACT INFECTION                                 
GASTROESOPHAGEAL REFLUX                       
MIGRAINE HEADACHES (Had an episode of R sided body "heaviness" 
with a migraine prior so dx with complex migraines, seen by Dr. 
___                                            
OBESITY                                                         
URINARY FREQUENCY                                               
OBSTRUCTIVE SLEEP APNEA                                         
DIABETES TYPE II                                                
DIABETIC NEPHROPATHY       
 
Social History:
___
Family History:
Relative  Status    Age Problem              Comments           
Other                   BREAST CANCER        Mammogram ___   
                                             ___ 2. She      
                                             declines further   
                                             genetic testing.   
                                             Maternal Aunts,    
                                             cousins (male)     

Father    ___  ___  PROSTATE CANCER                         

Comments: Brother - healthy, ___ Children - age ___ and ___,     
          healthy Maternal aunts with diabetes and on paternal  
          side as well                                          

 
Physical Exam:
==============================
ADMISSION PHYSICAL EXAMINATION
==============================
Vitals: 97.0 79 100 18 100% RA 
General: NAD, resting in bed, obese
HEENT: NCAT, no oropharyngeal lesions, MMM
Neck: Supple
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:
- Mental Status - Awake, alert, oriented to person, place and 
time. Attention to examiner easily maintained. Recalls a 
coherent history. Speech is fluent with full sentences, intact 
repetition, and intact verbal comprehension. Content of speech 
demonstrates intact naming (high and low frequency) and no 
paraphasias. Normal prosody. No dysarthria. No evidence of 
hemineglect. No left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling. 
EOMI, no nystagmus. V1-V3 without deficits to light touch 
bilaterally. No facial movement asymmetry. Hearing intact to 
finger rub bilaterally. Negative HIT and ___ (pt 
reports symptoms with ___. Palate elevation symmetric. 
Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch, pin, or proprioception 
bilaterally.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing 
bilaterally. Good speed and intact cadence with rapid 
alternating movements. No rebound. Mild overshoot bilaterally 
with mirroring.

- Gait - Normal initiation. Narrow base. Normal stride length 
and arm swing. Stable without sway. Negative Romberg. Normal 
tandem gait.

==============================
DISCHARGE PHYSICAL EXAMINATION
==============================
Awake & alert. ___ intact. CN: II-XII intact. EOMI w/ 
nystagmus. Normal strength. FNF/RAM/H-S intact. Sensations 
intact. DTRs symmetrical. Toes down. Gait, stance & tandem 
intact. ___ neg.

 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 10:40PM BLOOD WBC-8.6 RBC-4.03 Hgb-11.3 Hct-35.7 MCV-89 
MCH-28.0 MCHC-31.7* RDW-14.1 RDWSD-45.5 Plt ___
___ 10:40PM BLOOD Plt ___
___ 10:40PM BLOOD ___ PTT-24.7* ___
___ 10:53PM BLOOD Creat-0.8
___ 10:40PM BLOOD UreaN-13
___ 10:40PM BLOOD ALT-15 AST-38 AlkPhos-67 TotBili-0.3
___ 10:40PM BLOOD Lipase-29
___ 10:40PM BLOOD cTropnT-<0.01
___ 10:40PM BLOOD Albumin-4.6
___ 10:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:57PM BLOOD Glucose-118* Na-139 K-3.3 Cl-101 
calHCO3-24

___ 08:30AM URINE Color-Straw Appear-Clear Sp ___
___ 08:30AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 08:30AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

=======
IMAGING
=======
CTA HEAD AND NECK ___:  
1. No evidence of acute intracranial hemorrhage. 
2. No evidence of aneurysm greater than 3 mm, dissection or 
vascular 
malformation, or significant luminal narrowing. 
3. Dental disease.  Dental consultation is recommended. 

MRI HEAD W/O CONTRAST ___: 
1. Study is mildly degraded by motion. 
2. Two questionable punctate subacute infarctions in the 
bilateral frontal 
centrum semiovale versus artifact. 
3. No acute infarction of the posterior fossa. 
4. Few scattered nonspecific white matter lesions as described. 
Differential considerations include chronic microvascular 
ischemic changes, demyelination, history of migraines, sequela 
of prior trauma or infection and vasculitis. If clinical concern 
for active demyelinating process, consider contrast-enhanced 
brain MRI for further evaluation. 
5. Minimal paranasal sinus disease as described. 

 
Brief Hospital Course:
___ a ___ yo woman with medical history of obesity, 
diabetes, hypertension, and hyperlipidemia presenting with an 
episode of acute onset vertigo. She was admitted to the stroke 
service for further workup.

Hospital course by system: 

NEURO: Initial presentation concerning for central vs peripheral 
vertigo. Symptoms improved over the course of 24 hours and her 
neurologic exam was non focal on discharge. She was evaluated 
for an acute stroke with a NCHCT (unremarkable), a CTA showing 
small vertebral and basilar arteries likely in the setting of 
fetal circulation. She also had an MRI which showed a punctate 
finding in the LT centrum semiovale with no ADC correlate, 
therefore no acute stroke. However in the setting of her risk 
factors (HgbA1c 7.6%; LDL 212)these findings are concerning for 
possible TIA. We have modified her risk factors by adding ASA 
81mg PO daily as well as Atorvastatin 10mg PO daily.    

CV: She has known history of hypertension. Continued her home 
antihypertensives and monitored on telemetry without evidence of 
arrhythmias. 

ENDO: Known DM, continued home metformin and glipizide A1C 7.6% 
as above.

=
=
=
=
=
=
=
================================================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (X) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (X) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(X) Yes - () No  
4. LDL documented? (X) Yes (LDL =93 ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - (X) No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - (X) No [reason 
(X) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (X) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
() Yes - () No  
9. Discharged on statin therapy? () Yes - (X) No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (X) Yes [Type: (X) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (X) N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing 
2. Guaifenesin-CODEINE Phosphate ___ mL PO Q6H:PRN cough 
3. exenatide microspheres 2 mg/0.65 mL subcutaneous 1X/WEEK 
4. GlipiZIDE XL 10 mg PO DAILY 
5. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
6. MetFORMIN (Glucophage) 1000 mg PO BID 
7. Ranitidine 150 mg PO BID 
8. Vitamin D 800 UNIT PO DAILY 
9. Fluticasone Propionate 110mcg 2 PUFF IH BID 

 
Discharge Medications:
1. GlipiZIDE XL 10 mg PO DAILY 
2. MetFORMIN (Glucophage) 1000 mg PO BID 
3. Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*3
4. Atorvastatin 10 mg PO QPM 
RX *atorvastatin 10 mg 1 tablet(s) by mouth daily at bedtime 
Disp #*30 Tablet Refills:*3
5. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing 
6. exenatide microspheres 2 mg/0.65 mL subcutaneous 1X/WEEK 
7. Fluticasone Propionate 110mcg 2 PUFF IH BID 
8. Guaifenesin-CODEINE Phosphate ___ mL PO Q6H:PRN cough 
9. lisinopril-hydrochlorothiazide ___ mg ORAL DAILY 
10. Ranitidine 150 mg PO BID 
11. Vitamin D 800 UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Dizziness
Possible transient Ischemic Attack

Secondary: 
HTN
Diabetes
Sleep apnea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 
  
You were hospitalized due to symptoms of dizziness and vomiting 
concerning for an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms. We have imaged your brain and blood 
vessels but found no evidence of acute stroke.
  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. We have determined to add aspirin 81mg, as well as 
atorvastatin 10mg to modify your risks. We will also obtain a 
cardiac echo and event monitor to follow up in neurology clinic.

Please take your other medications as prescribed.  
Please followup with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  
 
Followup Instructions:
___